US08258130B2
A solution of 2-iodo-4-trifluoromethyl-phenylamine (10 g, 34.8 mmol) in DCM (100 mL) is treated with TFAA (5.55 mL, 41.8 mmol) and pyridine (3.4 mL, 41.8 mmol), and stirred at rt for 1 h. The mixture is diluted with H2O (150 mL), and extracted with DCM (3×150 mL). The combined organic layer is dried (Na2SO4), filtered and concentrated in vacuo. The residue is diluted with MeCN (100 mL), treated with trans-crotyl bromide (5.4 mL, 52.2 mmol) and K2CO3 (9.6 g, 69.6 mmol), and heated at reflux for 2 h. The mixture is cooled, filtered through a pad of Celite and concentrated. The residue is purified by silica gel chromatography eluting with 0%-10% EtOAc in heptane to afford N-but-2-enyl-2,2,2-trifluoro-N-(2-iodo-4-trifluoromethyl-phenyl)-acetamide (12.7 g, 84%). MS: 438 (M+H); 1H NMR (300 MHz, CDCl3): δ 8.18 (s, 1H), 7.67 (s, 1H), 7.26 (m, 1H), 5.52 (m, 2H), 4.88 (m, 1H), 3.51 (m, 1H), 1.68 (d, 3H).

reactant | 2-iodo-4-trifluoromethyl-phenylamine | 34.8 mmol, 10 g | IC1=C(C=CC(=C1)C(F)(F)F)N | C7H5F3IN
reactant | TFAA | 41.8 mmol, 5.55 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | pyridine | 41.8 mmol, 3.4 mL | N1=CC=CC=C1 | C5H5N
reactant | trans-crotyl bromide | 52.2 mmol, 5.4 mL | C(\C=C\C)Br | C4H7Br
reactant | K2CO3 | 69.6 mmol, 9.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 150 mL | O | H2O
product | N-but-2-enyl-2,2,2-trifluoro-N-(2-iodo-4-trifluoromethyl-phenyl)-acetamide | 12.7 g, 84% | C(C=CC)N(C(C(F)(F)F)=O)C1=C(C=C(C=C1)C(F)(F)F)I | C13H10F6INO
